US06534517B2
2-[4-(2-β-Carbolin-9-yl-ethoxy)-benzyl]-malonic Acid Dimethyl Ester
Under a nitrogen atmosphere, 2-β-carbolin-9-yl-ethanol (212 mg, 1.0 mmol), tributylphosphine (303 mg, 1.5 mmol) and 2-(4-hydroxy-benzyl)-malonic acid dimethyl ester (238 mg, 1.0 mmol) were successively dissolved in dry benzene (40 mL). Solid azodicarboxylic dipiperidide (ADDP) (378 mg, 1.5 mmol) was added under stirring at 0° C. to the solution. After 10 min, the reaction mixture was brought to room temperature and the stirring was continued for 16 h. Heptane (10 mL) was added to the reaction mixture and dihydro-ADDP separated out was filtered off. After evaporation of the solvent the product was chromatographed eluting with dichloromethane graduated with ethyl acetate to give 355 mg (82%) of the title compound; 1H NMR (300 MHz, CDCl3): δ 3.10 (d, 2H), 3.55 (t, 1H), 3.65 (s, 6H), 4.35 (t, 2H), 4.75 (t, 2H), 6.70 (d, 2H), 7.05 (d, 2H), 7.30 (t, 1H), 7.3-7.63 (m, 2H), 7.97 (d, 1H), 8.13 (d, 1H), 8.48 (d, 1H), 9.02 (s,1H).

reactant | 2-β-carbolin-9-yl-ethanol | 1.0 mmol, 212 mg | C1=NC=CC=2C3=CC=CC=C3N(C12)CCO | C13H12N2O
reactant | tributylphosphine | 1.5 mmol, 303 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 2-(4-hydroxy-benzyl)-malonic acid dimethyl ester | 1.0 mmol, 238 mg | COC(C(C(=O)OC)CC1=CC=C(C=C1)O)=O | C12H14O5
reactant | Heptane | 10 mL | CCCCCCC | C7H16
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
product | 2-[4-(2-β-Carbolin-9-yl-ethoxy)-benzyl]-malonic Acid Dimethyl Ester | 355 mg, 82% | COC(C(C(=O)OC)CC1=CC=C(C=C1)OCCN1C2=CC=CC=C2C=2C=CN=CC12)=O | C25H24N2O5
